US05750526
226 mg of 8-nitro-9-trifluoromethyl-2,3-dioxo-1,2,3,5,6,7-hexahydro-pyrido[1,2,3-de]quinoxaline-5-phosphonic acid diethyl ester is dissolved in 20 ml of ethanol, mixed with 50 mg of 10% palladium on activated carbon and hydrogenated at room temperature and under normal pressure. After suctioning off the catalyst, it is concentrated by evaporation and recrystallized from ethanol. 146 mg of 8-amino-9-trifluoromethyl-2,3-dioxo-1,2,3,5,6,7-hexahydro-pyrido[1,2,3-de]quinoxaline-5-phosphonic acid diethyl ester of melting point 242° C. (with decomposition) is obtained.

reactant | 8-nitro-9-trifluoromethyl-2,3-dioxo-1,2,3,5,6,7-hexahydro-pyrido[1,2,3-de]quinoxaline-5-phosphonic acid diethyl ester | 226 mg | C(C)OP(OCC)(=O)C1CCC=2C=3N1C(C(NC3C=C(C2[N+](=O)[O-])C(F)(F)F)=O)=O | C16H17F3N3O7P
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium on activated carbon | 50 mg | [Pd] | Pd
product | 8-amino-9-trifluoromethyl-2,3-dioxo-1,2,3,5,6,7-hexahydro-pyrido[1,2,3-de]quinoxaline-5-phosphonic acid diethyl ester | 146 mg | C(C)OP(OCC)(=O)C1CCC=2C=3N1C(C(NC3C=C(C2N)C(F)(F)F)=O)=O | C16H19F3N3O5P
